US04226861
N-Methyl 3-phenoxy-1-azetidinecarboxamide
The methanesulfonate of 3-phenoxyazetidine (10.5 g., 0.043 mole) was partitioned between 50 ml of benzene and 25 ml. of dilute sodium hydroxide. The benzene layer was dried over calcium sulfate and filtered. The filtrate was treated with 2.6 g. (0.043 mole) of methylisocyanate and the solution was stirred at room temperature for 18 hours. The resulting mixture was concentrated at reduced pressure and the residue was crystallized from a mixture of ethyl acetate-isopropyl ether to give 1.2 g. (14%) of product (m.p. 139°-141° C.).

reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 3-phenoxyazetidine | 0.043 mole, 10.5 g | O(C1=CC=CC=C1)C1CNC1 | C9H11NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methylisocyanate | 0.043 mole | CN=C=O | C2H3NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-Methyl 3-phenoxy-1-azetidinecarboxamide | CNC(=O)N1CC(C1)OC1=CC=CC=C1 | C11H14N2O2
